US04268514
A mixture of 9,9-bis(2'-vinyloxyethyl)xanthene (57 g.) (prepared as in Example 2), water (400 ml.) and concentrated hydrochloric acid (15 ml.) is heated on the steambath with vigorous stirring for 5 hours. The cooled mixture is extracted three times with ether and the combined extracts are dried over MgSO4 and evaporated to dryness. The solid residue is recrystallised from chloroform-light petroleum (b.p. 60°-80° C.) to give 9,9-bis(2'-hydroxyethyl)xanthene, m.p. 144°-145° C. Methanesulphonyl chloride (588 mg.) is added dropwise over 5 minutes at 5° C. to a solution of 9,9-bis(2'-hydroxyethyl)xanthene (0.54 g.) in dry pyridine (5 ml.) with stirring. The mixture is allowed to stand at room temperature for 20 hours and is then poured into a mixture of 3 N hydrochloric acid (20 ml.) and ice (10 g.), and the resulting mixture is extracted with ethyl acetate. The ethyl acetate extract is washed with 3 N hydrochloric acid and water, dried over MgSO4, and evaporated to dryness. The solid residue is recrystallised from acetone-light petroleum (b.p. 60°-80° C.) to give 9,9-bis(2'-methanesulphonyloxyethyl)-xanthene, m.p. 121°-122° C.

reactant | Methanesulphonyl chloride | 588 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | 9,9-bis(2'-hydroxyethyl)xanthene | 0.54 g | OCCC1(C2=CC=CC=C2OC=2C=CC=CC12)CCO | C17H18O3
reactant | hydrochloric acid | 3 N, 20 ml | Cl | ClH
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 9,9-bis(2'-methanesulphonyloxyethyl)-xanthene | CS(=O)(=O)OCCC1(C2=CC=CC=C2OC=2C=CC=CC12)CCOS(=O)(=O)C | C19H22O7S2
